US04906634
4-[3-(Diethylamino)propoxy)benzenamine dihydrochloride
Hydrogenate a solution of 8.5 g (29.4 mmol) of N,N-diethyl-3-(4-nitrophenoxy)propanamine hydrochloride in 100 mL of methanol over 0.92 g of 10% palladium on carbon catalyst at 40-45 psi at room temperature. When hydrogen uptake ceases remove the catalyst by filtration and add 5 mL of concentrated hydrochloric acid. Remove the solvent in vacuo. Recrystallize the residue from ethanol to obtain the title compound.

reactant | N,N-diethyl-3-(4-nitrophenoxy)propanamine hydrochloride | 29.4 mmol, 8.5 g | Cl.C(C)N(CCCOC1=CC=C(C=C1)[N+](=O)[O-])CC
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium on carbon | 0.92 g | [Pd] | Pd
product | 4-[3-(Diethylamino)propoxy)benzenamine dihydrochloride | Cl.Cl.C(C)N(CCCOC1=CC=C(C=C1)N)CC | InChI=1S/C13H22N2O.2ClH/c1-3-15(4-2)10-5-11-16-13-8-6-12(14)7-9-13;;/h6-9H,3-5,10-11,14H2,1-2H3;2*1H
